US07741355B2
2-(5-Amino-3-phenyl-pyrazol-1-yl)-ethanol
Benzoylacetonitrile (25 g, 0.17 mol) was suspended in a mixture of 125 mL reagent grade anhydrous alcohol and 20 mL glacial acetic acid. 2-Hydroxyethylhydrazine (14.4 g, 1.1 equiv) dissolved in 35 mL alcohol was added all at once. The mixture was heated at reflux for 4 h, cooled, water was added to make 500 mL total volume and the solution was chilled in a refrigerator overnight. Crystals were filtered cold on a Buchner funnel, washed with cold water and dried on high vacuum to give the desired product (27.2 g, 79%).

reactant | Benzoylacetonitrile | 0.17 mol, 25 g | C(C1=CC=CC=C1)(=O)CC#N | C9H7NO
reactant | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
reactant | 2-Hydroxyethylhydrazine | 14.4 g, 1.1 equiv | OCCNN | C2H8N2O
solvent | water | O | H2O
product | 2-(5-Amino-3-phenyl-pyrazol-1-yl)-ethanol | 27.2 g, 79% | NC1=CC(=NN1CCO)C1=CC=CC=C1 | C11H13N3O
